US05712297
B. 3-(4-butyloxy-1,2,5-oxadiazol-3-yl)-1-methylpyridine iodide
A mixture of methyl iodide (1 ml, 15 mmol) and 3-(4-butyloxy-1,2,5- oxadiazol-3-yl)pyridine (1.9 mmol) in acetone (10 ml) was stirred at room temperature for 18 h and evaporated.

reactant | methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-butyloxy-1,2,5- oxadiazol-3-yl)pyridine | 1.9 mmol | C(CCC)OC=1C(=NON1)C=1C=NC=CC1 | C11H13N3O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(4-butyloxy-1,2,5-oxadiazol-3-yl)-1-methylpyridine iodide | [I-].C(CCC)OC=1C(=NON1)C=1CN(C=CC1)C | InChI=1S/C12H17N3O2.HI/c1-3-4-8-16-12-11(13-17-14-12)10-6-5-7-15(2)9-10;/h5-7H,3-4,8-9H2,1-2H3;1H/p-1
